US07091353B2
[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-ylmethy]-carbamic acid benzyl ester I-6
1,8-diazabicyclo[5,4,0]undec-7-ene (0.88 g, 6 mmol) was added to a stirred suspension of methyl-3-[(benzyloxycarbonylamino)methyl]-2-(methoxycarbonyl)benzoate (2.07 g, 6 mmol) and aminoglutarimide hydrochloride (0.95 g, 6 mmol) in DMF (15 ml). The mixture was heated to 120° C. for 24 hours. The mixture was cooled to room temperature and poured into water (150 ml). The mixture was extracted with ethyl acetate (3×30 ml) and the combined ethyl acetate extracts were washed with water (2×30 ml), brine (30 ml) and dried. Solvent was removed in vacuo and the residue was purified by chromatography (dichloromethane/ethyl acetate 8 to 2) to give 0.58 g (24%) of the product as a white solid: mp 166–168° C.; 1H NMR (DMSO-d6) δ 11.15 (s, 1H), 7.99–7.71 (m, 4H), 7.37 (m, 5H), 5.19–5.12 (dd, J=5.1 and 17.4 Hz, 1H), 5.07 (s, 2H), 4.70 (d, J=5.7 Hz, 2H), 2.97–2.83 (m, 1H), 2.64–2.51 (m, 2H), 2.08–2.04 (m, 1H); 13C NMR (DMSO-d6) δ 172.55, 169.89, 167.51, 167.01, 156.55, 139.46, 137.02, 134.87, 132.89, 131.57, 128.44, 127.92, 127.83, 127.06, 121.99, 65.69, 48.89, 30.97, 22.02; Anal. Calcd. For C22H19N3O6: C, 62.70; H, 4.54; N, 9.97. Found: C, 62.53; H, 4.57; N, 9.89.

reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 6 mmol, 0.88 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methyl-3-[(benzyloxycarbonylamino)methyl]-2-(methoxycarbonyl)benzoate | 6 mmol, 2.07 g | COC(C1=C(C(=CC=C1)CNC(=O)OCC1=CC=CC=C1)C(=O)OC)=O | C19H19NO6
reactant | aminoglutarimide hydrochloride | 6 mmol, 0.95 g | Cl.NC1C(=O)NC(CC1)=O
reactant | water | 150 ml | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | [2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-ylmethy]-carbamic acid benzyl ester | 0.58 g, 24% | C(C1=CC=CC=C1)OC(NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O)=O | C22H19N3O6
